US03945998
4-Benzyloxymethyl-4-methyl-2-phenyloxazoline (Compound 1)
A suspension of 4-hydroxymethyl-4-methyl-2-phenyloxazoline (19.1 grams, prepared by the method described in J. Amer, Chem. Soc. 1945, 67, 1069) in toluene (200 milliliters) was added slowly to a stirred suspension of sodium hydride (2.4 grams) in toluene (50 milliliters). Some warming was necessary to initiate the reaction. The mixture was then heated under reflux for 2 hours with stirring. Benzyl chloride (13.0 grams) was added to the mixture over a period of 10 minutes. The mixture was heated under reflux for a further 5 hours and then allowed to stand at room temperature for 16 hours. The mixture was washed with water (3 × 200 milliliters), dried (MgSO4) and evaporated under reduced pressure. The residue was distilled in vacuo to give the desired product, boiling point 147°-149°C at 0.3 Torr.

reactant | 4-hydroxymethyl-4-methyl-2-phenyloxazoline | OCC1(N=C(OC1)C1=CC=CC=C1)C | C11H13NO2
reactant | sodium hydride | 2.4 grams | [H-].[Na+]
reactant | Benzyl chloride | 13.0 grams | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | 200 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 milliliters | C1(=CC=CC=C1)C | C7H8
product | 4-Benzyloxymethyl-4-methyl-2-phenyloxazoline | C(C1=CC=CC=C1)OCC1(N=C(OC1)C1=CC=CC=C1)C | C18H19NO2
